US04833262
Synthesis of 1-(4-bromobutyldimethylsilyl)-1-propyne
This novel monomer was synthesized by adding 6.7 g (0.029 mole) of 4-bromobutyldimethylchlorosilane dropwise at 0° C. to a stirred solution of propynyllithium (1.34 g, 0.029 mole) in 50 ml of dry diethyl ether. The reaction mixture was stirred overnight at 25° C. and then poured into 400 ml of ice water. The ether layer was washed with distilled water, separated, and dried over MgSO4. The ether layer was then filtered and the product separated by removing the ether using a rotovapor. The resulting oil was purified by vacuum distillation and had a b.p. of 70°-75° C. at 15 mm Hg pressure. Yield was 75% of theoretical. 'H NMR confirmed the structure.

reactant | 4-bromobutyldimethylchlorosilane | 0.029 mole, 6.7 g | BrCCCC[Si](Cl)(C)C | C6H14BrClSi
reactant | propynyllithium | 0.029 mole, 1.34 g | C(#CC)[Li]
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-(4-bromobutyldimethylsilyl)-1-propyne | Yield was 75% | BrCCCC[Si](C#CC)(C)C | C9H17BrSi
